US07732460B2
(c) 3-Chloro-6,7-dihydro[1,4]dioxino[2,3-c]pyridazine
A solution of 2-[(3,6-dichloro-4-pyridazinyl)oxy]ethanol containing some bromo-derivative (15.46 g; 0.0703 mol) in dry 1,4-dioxane (1.2 L) was treated with lithium hydride (2.3 g; 0.28 mol) in portions and stirred at room temperature for 1 hour under argon, then heated at 110° C. overnight. The reaction mixture was quenched with wet 1,4-dioxane, then iced-water. The solution was evaporated to half volume, taken to pH 8 with 5M hydrochloric acid and evaporated to dryness. Water was added and the residue was extracted 5× with chloroform, dried (sodium sulphate) and evaporated to afford a white solid (12.4 g, ca. 77%) (containing ca. 15% of a bromo species).

reactant | 2-[(3,6-dichloro-4-pyridazinyl)oxy]ethanol | ClC=1N=NC(=CC1OCCO)Cl | C6H6Cl2N2O2
reactant | lithium hydride | 0.28 mol, 2.3 g | [H-].[Li+]
solvent | 1,4-dioxane | 1.2 L | O1CCOCC1 | C4H8O2
product | 3-Chloro-6,7-dihydro[1,4]dioxino[2,3-c]pyridazine | ClC1=CC2=C(N=N1)OCCO2 | C6H5ClN2O2
